US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-6-(1-t-butoxycarbonylpiperidin-4-yl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine
To a solution of ethyl isonipecotate (10.0 g) in THF (200 mL) was added triethylamine (7.8 g), 4-dimethylaminopyridine (0.8 g) and di-tert-butyldicarbonate (15.3 g) at 0° C. and the mixture was stirred for an hour. The mixture was extracted with ethyl acetate and the solvent was evaporated under reduced pressure to give ethyl N-Boc-piperidine-4-carboxylate (16.3 g) as a colorless oil. To a solution of acetonitrile (3.2 g) in THF (300 mL) was added n-BuLi (44 mmol) at −78° C. and stirred for three hours. Further, ethyl N-Boc-piperidine-4-carboxylate (16.3 g) was added and the mixture was stirred for an hour. After acidification with hydrochloric acid, the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (5:1)) to give 1-(N-Boc-piperidin-4-yl)-2-cyanoethan-1-one (11.6 g) as a colorless oil. A solution of 2,1,3-benzoxadiazole-4-aldehyde (1.0 g), 3-aminopyrazole (0.6 g) and 2-(N-Boc-piperidin-4-yl)-1-cyanoethan-2-one (1.7 g) in acetonitrile (10 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration to give the title compound (2.0 g) as colorless crystals.

reactant | 2,1,3-benzoxadiazole-4-aldehyde | 1.0 g | N=1ON=C2C1C=CC=C2C=O | C7H4N2O2
reactant | 3-aminopyrazole | 0.6 g | NC1=NNC=C1 | C3H5N3
reactant | 2-(N-Boc-piperidin-4-yl)-1-cyanoethan-2-one | 1.7 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C(CC#N)=O | C13H20N2O3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(2,1,3-Benzoxadiazol-4-yl)-6-(1-t-butoxycarbonylpiperidin-4-yl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 2.0 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCN(CC2)C(=O)OC(C)(C)C)=NNC1 | C23H25N7O3
